US06482827B1
Methanesulfonyl chloride (31 mL) was added dropwise to a solution of 3-(4-methoxyphenyl)-1-propanol (50 g) and triethylamine (56 mL) in dichloromethane (800 mL) at 0° C. The resulting mixture was stirred overnight at room temperature. After washing with water, 2% hydrochloric acid and 4% aqueous sodium bicarbonate, the organic solution was dried over sodium sulfate and rotoevaporated to yield crude 3-(4-methoxyphenyl)-1-propyl methanesulfonate as a colourless solid (ca. 83 g). This product and sodium iodide (75 g) in acetone (800 mL) were heated at reflux in the dark for 20 hours. After cooling to room temperature, the reaction mixture was poured into n-hexane/EtOAc/water 1:1:1 (1.5 L) under stirring. The organic layer was washed with water, diluted aqueous sodium metabisulfite and 4% aqueous sodium bicarbonate, then dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by passing it through a short pad of silica gel (eluting with n-hexane/EtOAc 95:5). The title compound was obtained as a pale yellow solid (75 g).

reactant | Methanesulfonyl chloride | 31 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(4-methoxyphenyl)-1-propanol | 50 g | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | triethylamine | 56 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | 3-(4-methoxyphenyl)-1-propyl methanesulfonate | ca. 83 g | CS(=O)(=O)OCCCC1=CC=C(C=C1)OC | C11H16O4S
